US04002762
A solution of 37.4 g of 2-amino-6-methyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester and 6.8 g of sodium ethylate in 500 ml of ethanol is brought to the boil and treated with 10.9 g of ethyl bromide. After boiling for a further 60 minutes under reflux, the mixture is concentrated by distillation and the residue is taken up in 300 ml of chloroform and extracted by shaking twice with 100 ml of water. Concentration of the organic phase and recrystallization from ethanol gave 2-amino-3-ethyl-6-methyl-4-(3'-nitrophenyl)-3,4 -dihydropyridine-3,5-dicarboxylic acid diethyl ester of melting point 122°-3° C (16.5 g, 41% of theory).

reactant | 2-amino-6-methyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | 37.4 g | C(C)OC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C)N | C18H21N3O6
reactant | sodium ethylate | 6.8 g | CC[O-].[Na+]
reactant | ethyl bromide | 10.9 g | C(C)Br | C2H5Br
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-amino-3-ethyl-6-methyl-4-(3'-nitrophenyl)-3,4 -dihydropyridine-3,5-dicarboxylic acid diethyl ester | C(C)OC(=O)C1(C(=NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C)N)CC | C20H25N3O6
